US04775406
5.7 pbw (0.073 mole) of a 40% aqueous solution of methylamine are added dropwise to 15 pbw (0.061 mole) of 1-(2,6-diethylphenyl)imidazole-5-carboxylic acid in 50 pbv of methylene chloride. After 2 hours the mixture is evaporated in vacuo, the residue isstirred with 100 pbv of diethyl ether and filtered off with suction. 15.7 pbw (93% of theory) of methylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate, a colorless solid with a m.p. of 110°-113° C., are obtained.

reactant | methylamine | CN | CH5N
reactant | 1-(2,6-diethylphenyl)imidazole-5-carboxylic acid | 0.061 mole | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)O | C14H16N2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate | 93% | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)[O-].C[NH3+] | InChI=1S/C14H16N2O2.CH5N/c1-3-10-6-5-7-11(4-2)13(10)16-9-15-8-12(16)14(17)18;1-2/h5-9H,3-4H2,1-2H3,(H,17,18);2H2,1H3
